US07732435B2
7-(Benzhydrylideneamino)-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one
A mixture of trifluoromethanesulfonic acid 3-(4-chlorophenyl)-2-isopropyl-4-oxo-4H-chromen-7-yl ester (6.96 g, 15.6 mmol), palladium acetate (0.35 g, 1.56 mmol), cesium carbonate (12.7 g, 38.9 mmol) and racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (BINAP; 0.97 g, 1.56 mmol) in anhydrous tetrahydrofuran (230 ml) under an atmosphere of nitrogen is treated with benzophenone imine (3.66 g, 20.2 mmol) and allowed to stir at 80° C. for 22 hours. After allowing the resultant mixture to stir at room temperature for an additional 24 hours, it is diluted with water (300 ml) and extracted with ethyl acetate (3×300 ml). The organic extracts are combined, washed with brine, dried (MgSO4), filtered, concentrated in vacuo and purified by flash chromatography over silica gel (10% ethyl acetate/cyclohexane) to afford the desired compound as a dark yellow solid.

reactant | trifluoromethanesulfonic acid 3-(4-chlorophenyl)-2-isopropyl-4-oxo-4H-chromen-7-yl ester | 15.6 mmol, 6.96 g | ClC1=CC=C(C=C1)C1=C(OC2=CC(=CC=C2C1=O)OS(=O)(=O)C(F)(F)F)C(C)C | C19H14ClF3O5S
reactant | cesium carbonate | 38.9 mmol, 12.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.56 mmol, 0.97 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | benzophenone imine | 20.2 mmol, 3.66 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | tetrahydrofuran | 230 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
catalyst | palladium acetate | 1.56 mmol, 0.35 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-(Benzhydrylideneamino)-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=CC=C2C(C(=C(OC2=C1)C(C)C)C1=CC=C(C=C1)Cl)=O | C31H24ClNO2
